US04605652
N-(1-Azabicyclo[2.2.2]oct-3-yl)-2-fluorobenzamide, Monohydrochloride
In a closed system, a solution of 3-aminoquinuclidine (2.52 g, 0.020 mole) in 10 ml anhydrous ether was added dropwise to a stirred solution of 2-fluorobenzoyl chloride (3.13 g, 0.020 mole) in 100 ml anhydrous ether. After the addition was complete, the mixture was stirred another hour and the solid product (as the hydrochloride salt) was collected by filtration under nitrogen to give 4.75 g (84%). TLC analysis (3% conc. ammonium hydroxide in methanol) showed the presence of 3-aminoquinuclidine. The salt was dissolved in 10 ml water, basified with 6N sodium hydroxide solution, and extracted three times with 50 ml portions of methylene chloride. The combined extract was dried over magnesium sulfate and concentrated to give 3.67 g of the product as the free base. Recrystallization from tolueneisooctane gave 2.33 g of a white solid (some toluene insoluble material was removed by decanting the hot toluene solution). The solid free base was dissolved in 10 ml methanol, treated with excess ethereal hydrogen chloride and 100 ml isopropyl ether was added. The salt separated from solution as an oil, but crystallized on trituration. The white solid was collected under nitrogen to give 2.60 g; m.p. 233°-234° C. Mass spectrum (E.I.) m/e (% relative intensity): 248 (15), 125 (13), 123 (100), 109 (80), 96 (24), 95 (45), 84 (14), 75 (19), 70 (64), 42 (44), 41 (18).

reactant | 3-aminoquinuclidine | 0.020 mole, 2.52 g | NC1CN2CCC1CC2 | C7H14N2
reactant | 2-fluorobenzoyl chloride | 0.020 mole, 3.13 g | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | sodium hydroxide | 6N | [OH-].[Na+]
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | methanol | CO | CH4O
solvent | water | 10 ml | O | H2O
product | N-(1-Azabicyclo[2.2.2]oct-3-yl)-2-fluorobenzamide, Monohydrochloride | 3.67 g | Cl.N12CC(C(CC1)CC2)NC(C2=C(C=CC=C2)F)=O | InChI=1S/C14H17FN2O.ClH/c15-12-4-2-1-3-11(12)14(18)16-13-9-17-7-5-10(13)6-8-17;/h1-4,10,13H,5-9H2,(H,16,18);1H
